US08802697B2
Synthesis of 6-chloro-5-methyl-4-(methylamino)nicotinaldehyde
A mixture of (6-chloro-5-methyl-4-(methylamino)pyridin-3-yl)methanol (1.4 g, 8.0 mmol) and manganese oxide (2.8 g, 32 mmol) in dichloromethane (100 mL) was stirred at RT for 4 h. LCMS monitored the reaction was completed. The solid was filtered off, and the filtrate was concentrated to get the title compound (1.2 g, crude) as a yellow oil. MS (ES+) C8H9ClN2O requires: 184, 186. found: 185, 187 [M+H]+.

reactant | (6-chloro-5-methyl-4-(methylamino)pyridin-3-yl)methanol | 8.0 mmol, 1.4 g | ClC1=C(C(=C(C=N1)CO)NC)C | C8H11ClN2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | manganese oxide | 32 mmol, 2.8 g | [O-2].[Mn+2]
product | 6-chloro-5-methyl-4-(methylamino)nicotinaldehyde | 1.2 g | ClC1=NC=C(C=O)C(=C1C)NC | C8H9ClN2O
